US04315933
Using the method for the preparation of the side chain acid in Example 1, 13.86 g (60 mmol) of 2-(4-aminophenyl)-4-hydroxy-5-pyrimidine carboxylic acid, 25.2 ml (180 mmol) of triethylamine, 24 ml (190 mmol) of chlorotrimethylsilane, 600 ml of dichloromethane, and 9.3 ml (66 mmol) of trifluoroacetic anhydride gives 19.2 g of 2-[4-(trifluoroacetylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid; mp 293°-295° dec.

reactant | 2-(4-aminophenyl)-4-hydroxy-5-pyrimidine carboxylic acid | 60 mmol, 13.86 g | NC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)O | C11H9N3O3
reactant | triethylamine | 180 mmol, 25.2 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 190 mmol, 24 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | trifluoroacetic anhydride | 66 mmol, 9.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 2-[4-(trifluoroacetylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid | 19.2 g | FC(C(=O)NC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)O)(F)F | C13H8F3N3O4
